US07776910B2
Triethylamine (0.387 mL, 1.533 mmol) and methyl bromoacetate (0.146 mL, 1.533 mmol) were added at 0° C. to a solution of 3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine (0.445 g, 1.393 mmol) in DCM (5 mL). The reaction mixture was stirred at room temperature for 4 hours, then concentrated under reduced pressure, and the crude residue was purified via flash chromatography (DCM/MeOH/NH4OH) to give 0.410 g (84% yield) of {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester as a yellow oil.

reactant | Triethylamine | 1.533 mmol, 0.387 mL | C(C)N(CC)CC | C6H15N
reactant | methyl bromoacetate | 1.533 mmol, 0.146 mL | BrCC(=O)OC | C3H5BrO2
reactant | 3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine | 1.393 mmol, 0.445 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC(=C(C=C1)C1CNCC1)C | C17H18FNO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester | 0.410 g, 84% yield | COC(CN1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C)=O | C20H22FNO4S
